US04702763
Step 1: 2,2-Dimethyl-4-hydroxymethyl-1,3-dithiolan
To a mixture of 10.18 g (0.082 mole) of 2,3-dimercapto-1-propanol, 20 mL of cyclohexane, and 5.0 g (0.086 mole) of acetone was added 4 drops of concentrated hydrochloric acid, and the mixture was stirred at reflux temperature for 3.5 hours to give, after fractional distillation of the reaction mixture, 5.85 g of a colorless oil, bp 96°-106° C./1.2-1.5 mm Hg, which solidified on standing. Recrystallization from toluene-hexane gave 3.96 g of product, mp 45°-50° C.

reactant | 2,3-dimercapto-1-propanol | 0.082 mole, 10.18 g | SC(CO)CS | C3H8OS2
reactant | acetone | 0.086 mole, 5.0 g | CC(=O)C | C3H6O
catalyst | hydrochloric acid | 4 drops | Cl | ClH
solvent | cyclohexane | 20 mL | C1CCCCC1 | C6H12
product | 2,2-Dimethyl-4-hydroxymethyl-1,3-dithiolan | 3.96 g | CC1(SCC(S1)CO)C | C6H12OS2
